US07485637B2
4a: 2-Chloro-5-sulfino-benzoic acid
A solution of 33.59 g (267 mmol) sodium sulfite in 100 ml water at 0° C. is treated with 21.2 g (89 mmol) 2-chloro-5-fluorosulfonyl-benzoic acid and 26.6 ml of a 10 M aqueous NaOH solution (267 mmol). The mixture was allowed to stir for 3 h at room temperature, acidified with HCl conc. (pH=4) and water was removed under vacuum. Methanol was added, the precipitate filtered off and the filtrate concentrated. Methanol and diethylether were added and the precipitate was filtered off washed with ether and dried to yield 15 g (76.5%) of the title compound as white gum. MS (m/e): 219.1 (M−H, 100%)

reactant | sodium sulfite | 267 mmol, 33.59 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | 2-chloro-5-fluorosulfonyl-benzoic acid | 89 mmol, 21.2 g | ClC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)F | C7H4ClFO4S
reactant | NaOH | 267 mmol, 10 M | [OH-].[Na+]
reactant | HCl | pH=4 | Cl | ClH
solvent | water | 100 ml | O | H2O
product | 2-Chloro-5-sulfino-benzoic acid | 15 g, 76.5% | ClC1=C(C(=O)O)C=C(C=C1)S(=O)O | C7H5ClO4S
